US06015829
The same reaction and treatment as in Example 5 using ethyl 1-(3-cyano-4-hydroxyphenyl)pyrazole-4-carboxylate and cyclohexyl bromide gives ethyl 1-(3-cyano-4-cyclohexyloxyphenyl)pyrazole-4-carboxylate.

reactant | ethyl 1-(3-cyano-4-hydroxyphenyl)pyrazole-4-carboxylate | C(#N)C=1C=C(C=CC1O)N1N=CC(=C1)C(=O)OCC | C13H11N3O3
reactant | cyclohexyl bromide | C1(CCCCC1)Br | C6H11Br
product | ethyl 1-(3-cyano-4-cyclohexyloxyphenyl)pyrazole-4-carboxylate | C(#N)C=1C=C(C=CC1OC1CCCCC1)N1N=CC(=C1)C(=O)OCC | C19H21N3O3
